US07098195B2
2- Acetamido-2,4-dideoxy-4-fluoro-D-glucopyranose
A solution of benzyl2-acetamido-3,6-di-O-benzyl-2,4-dideoxy-4-fluoro-α-D-glucopyranose (3.21 g, 6.51 mmol) in the HOAc (150 ml) containing 10% Pd/charcoal catalyst (4.3 g) was hydrogenated at 50–55 psig. Pressure dropped from 55 to 50 psig and was re-pressurized to 56 psig. Again, pressure dropped to approximately 50 psig. A small sample was withdrawn. The reaction appeared to have made a little progress, but much starting material remained as shown by TLC. Catalyst was removed by filtration through a layer of Celite, which was washed with H2O and EtOH. The filtrate was evaporated in vacuo to low bulk then again clarified by filtration through a layer of Celite. This filtrate was now evaporated in vacuo to a dry solid, which was dried in vacuo for 18 hours. Yield=2.57 g. The reaction was then re-started by dissolving 2.01 g (5.09 mmol) of the product in glacial HOAc (50 ml) containing 2.65 g of 10% Pd/charcoal catalyst, using a Parr shaker apparatus, to hydrogenate at 50 psig for 5 days. A sample was withdrawn, membrane-filtered, then evaporated in vacuo to a residue. This material was checked via TLC and the reaction appeared to have been successful, although a small amount of unknown material showed just ahead of the product. The remainder of the reaction catalyst was removed by filtration through a layer of Celite. The filtrate was evaporated in vacuo to a residue, which was dried in vacuo 18 hours; Yield=2.67 g. This material was now triturated in warm absolute EtOH (approx. 25 ml). Ether was added, in portions (250–300 ml). A tan solid appeared. The supernatent liquid was removed by decontation; the residue was dried in vacuo Yield=1.35 g (54.6%).

reactant | benzyl2-acetamido-3,6-di-O-benzyl-2,4-dideoxy-4-fluoro-α-D-glucopyranose | 6.51 mmol, 3.21 g | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](OCC2=CC=CC=C2)[C@@H]([C@H](O1)COCC1=CC=CC=C1)F)NC(C)=O | C29H32FNO5
solvent | HOAc | 150 ml | CC(=O)O | C2H4O2
catalyst | Pd charcoal | 4.3 g | [Pd].C
solvent | HOAc | 50 ml | CC(=O)O | C2H4O2
catalyst | Pd charcoal | 2.65 g | [Pd].C
product | 2- Acetamido-2,4-dideoxy-4-fluoro-D-glucopyranose | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)F)CO | C8H14FNO5
